US07589113B2
Synthesis of dimethylamino-(1,4-dioxaspiro[4.5]dec-8-yl)-acetonitrile
40 percent strength aqueous dimethylamine solution (85 ml, 0.67 mol), 1,4-dioxaspiro-[4.5]decane-8-carbaldehyde (240 g, 0.141 mol) and potassium cyanide (22.05 g, 0.338 mol) were added with ice cooling to a mixture of 4N hydrochloric acid (37 ml) and methanol (22 ml). The mixture was stirred at room temperature for 4 d and then, after addition of water (80 ml), extracted with diethyl ether (4×100 ml). The organic phase was dried over sodium sulfate, evaporated under a vacuum and the product obtained as a white solid.

reactant | dimethylamine | 0.67 mol, 85 ml | CNC | C2H7N
reactant | 1,4-dioxaspiro-[4.5]decane-8-carbaldehyde | 0.141 mol, 240 g | O1CCOC12CCC(CC2)C=O | C9H14O3
reactant | potassium cyanide | 0.338 mol, 22.05 g | [C-]#N.[K+]
reactant | hydrochloric acid | 4N, 37 ml | Cl | ClH
solvent | water | 80 ml | O | H2O
solvent | methanol | 22 ml | CO | CH4O
product | dimethylamino-(1,4-dioxaspiro[4.5]dec-8-yl)-acetonitrile | CN(C)C(C#N)C1CCC2(OCCO2)CC1 | C12H20N2O2
